US06518265B1
4-Chloro-2-trifluoromethyl-1-[2-(N-triphenylmethyl-4-piperidyl)ethyl]-1H-imidazo[4,5-c]quinoline
To a solution of 2.50 g of 3-amino-2-chloro-4-[2-(N-triphenylmethyl-4-piperidyl)ethylamino]quinoline and 0.76 ml of triethylamine in 60 ml of dried tetrahydrofuran, a solution of 0.63 ml of trifluoroacetic anhydride in 40 ml of dried tetrahydrofuran was added dropwise under ice-cooling, and the mixture was stirred at room temperature for 2 hours. The solvent of the reaction mixture was evaporated, and the residue was added with water and saturated aqueous sodium hydrogencarbonate solution, and extracted with ethyl acetate. The extract was washed successively with water and saturated brine, and dried, and then the solvent was evaporated. A solution of 3.03 g of the resulting pale yellow solid and 0.30 g of p-toluenesulfonic acid monohydrate in 100 ml of toluene was refluxed for 20 hours. After the reaction, the solvent was evaporated, and the residue was added with methanol and acetone. The precipitated crystals were collected by filtration to give 1.79 g of colorless crystals.

reactant | 3-amino-2-chloro-4-[2-(N-triphenylmethyl-4-piperidyl)ethylamino]quinoline | 2.50 g | NC=1C(=NC2=CC=CC=C2C1NCCC1CCN(CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)Cl | C35H35ClN4
reactant | triethylamine | 0.76 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 0.63 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 4-Chloro-2-trifluoromethyl-1-[2-(N-triphenylmethyl-4-piperidyl)ethyl]-1H-imidazo[4,5-c]quinoline | 1.79 g | ClC1=NC=2C=CC=CC2C2=C1N=C(N2CCC2CCN(CC2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C(F)(F)F | C37H32ClF3N4
